US08119654B2
Fine powder of methyl 5,6-dihydro-5-oxo-11-H-indeno[1,2-c]isoquinoline-10-carboxylate (11.3 g, 28.8 mmol) was suspended in THF (150 mL) and stirred at room temperature. A 2M solution of Lithium aluminium hydride (LAH) in THF (39 mL) was added slowly to the stirred suspension. After the complete addition, the mixture was stirred at room temperature for 6 hours, then cooled to 0° C. The reaction mixture was quenched with dropwise addition of ethyl acetate (50 mL). During the quenching the reaction temperature was kept below 50° C. The reaction mixture was poured into 1N HCl solution (200 mL) and stirred for 1 hour. The resultant solid was collected by filtration, washed with 1N HCl solution (20 mL) and ethyl acetate, and dried in a vacuum oven overnight to provide 10-hydroxymethyl-5,6-dihydro-5-oxo-11-H-indeno[1,2-c]isoquinoline in 93% yield (9.5 g). 1H NMR spectrum (in DMSO-d6): δ 12.28 (s, 1H); 8.23 (d, J=8.1 Hz, 1H); 7.89 (m, 1H); 7.73 (m, 2H); 7.45 (m, 1H); 7.36 (m, 2H); 5.22 (d, J=5.1 Hz, 1H), 4.68 (d, 2H); 3.85 (s, 2H).

reactant | methyl 5,6-dihydro-5-oxo-11-H-indeno[1,2-c]isoquinoline-10-carboxylate | 28.8 mmol, 11.3 g | O=C1NC2=C(C3=CC=CC=C13)CC=1C(=CC=CC12)C(=O)OC | C18H13NO3
reactant | Lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 39 mL | C1CCOC1 | C4H8O
product | 10-hydroxymethyl-5,6-dihydro-5-oxo-11-H-indeno[1,2-c]isoquinoline | 93% yield | OCC=1C=2CC3=C(NC(C4=CC=CC=C34)=O)C2C=CC1 | C17H13NO2
